US06583135B2
Preparation of 2-(6-Fluoro-1H-indol-3-yl)-ethanol
To a solution of 6-fluoro-3-indoleglyoxylic acid ethyl ester (2.01 g, 8.55 mmol) in dry THF (0.11 L) at 0° C. under argon was added LiAlH4 (1.68 g, 44.2 mmol). The reaction mixture was refluxed for 3 h, cooled to 0° C., and treated with H2O (1.7 mL), 15% aq KOH (1.7 mL), and H2O (5 mL). The mixture was filtered. The filtrate was diluted with EtOAc, and washed with H2O and brine. The EtOAc solution was dried, filtered, and concentrated to give the title compound: TLC Rf=0.33 (9:1 CH2Cl2/Me2CO); MS (ESI−) m/z 178.0; 1H NMR (CDCl3, 300 MHz) δ 8.38 (1H), 7.49 (1H), 7.01-6.63 (3H), 3.90 (2H), 2.99 (2H), 2.23 (1H).

reactant | 6-fluoro-3-indoleglyoxylic acid ethyl ester | 8.55 mmol, 2.01 g | C(C)OC(C(=O)C1=CNC2=CC(=CC=C12)F)=O | C12H10FNO3
reactant | LiAlH4 | 44.2 mmol, 1.68 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2O | 1.7 mL | O | H2O
reactant | KOH | 1.7 mL | [OH-].[K+]
reactant | H2O | 5 mL | O | H2O
solvent | THF | 0.11 L | C1CCOC1 | C4H8O
product | 2-(6-Fluoro-1H-indol-3-yl)-ethanol | FC1=CC=C2C(=CNC2=C1)CCO | C10H10FNO
